US05089637
Ethyl Chroman-2-carboxylate
Chroman-2-carboxylic acid (35.6 g, 0.2 mol) prepared according to the method of Augstein et al., J. Med. Chem., v. 11, pp. 844-848, 1968) and absolute ethanol (24.3 g, 0.6 mol) were combined in 300 ml of CH2Cl2. H2SO4 (0.6 ml, 96%) was added and the mixture gently refluxed for 21 hours, then cooled and diluted with 500 ml H2O. The organic layer was separated, washed with saturated NaHCO3 and then H2O, dried (MgSO4) and stripped to yield present title product as an oil; 38.6 g (93%); 1H-NMR (CDCl3), 300 MHz) delta 7.12 (t, 1H), 7.02 (d, 1H), 6.92 (d, 1H), 6.85 (t, 1H), 4.71 (q, 1H), 4.25 (q. 2H), 2.80 (m, 2H), 2.22 (m, 2H), 1.29 (t, 3H).

reactant | Chroman-2-carboxylic acid | 0.2 mol, 35.6 g | O1C(CCC2=CC=CC=C12)C(=O)O | C10H10O3
reactant | ethanol | 0.6 mol, 24.3 g | C(C)O | C2H6O
reactant | H2SO4 | 0.6 ml | OS(=O)(=O)O | H2O4S
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 500 ml | O | H2O
product | Ethyl Chroman-2-carboxylate | O1C(CCC2=CC=CC=C12)C(=O)OCC | C12H14O3
